data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4258,4872,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c:12]1[nH+:13][c-:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[c:21](=[O:22])[o:23]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:12]1([CH3:11])[NH:13][C:14]2([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:21](=[O:22])[O:23]1,water,298.15,30.395879456056207,0.3180357739048499
2158,2393,[CH3:18][C:19]#[N+:20][C-:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[Cl:1][C:2]1([Cl:3])[C:4]#[C:5][C:6]([Cl:7])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15][CH2:16][CH2:17]1>>[Cl:1][C:2]1([Cl:3])[C:4]2=[C:5]([C:6]([Cl:7])([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:21]([C:22]#[N:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:20]=[C:19]2[CH3:18],water,298.15,3.2445635460615607,-58.9806558642329
4522,5157,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14](=[O:15])[O:16][CH3:17])[N+:18]([CH3:19])=[C:20]([C:21]#[N:22])[C:23]#[N:24].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14](=[O:15])[O:16][CH3:17])[N:18]([CH3:19])[C:20]1([C:21]#[N:22])[C:23]#[N:24],water,298.15,22.69858650649063,-12.54849612104002
3558,4056,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([O+:10]=[CH:11][C:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[O:10][CH:11]1[C:12]#[N:13],water,298.15,9.024202615718757,-56.32901374583542
5184,5882,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[O:29][CH3:30].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([C:17](=[O:18])[O:19][CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:27](=[O:28])[O:29][CH3:30],water,298.15,20.75325643849272,-8.396081733966492
929,1007,[CH3:12][CH-:13][O+:14]=[C:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[CH:13]([CH3:12])[O:14][C:15]2([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,12.691851392695863,-40.51472435028746
4484,5117,[CH3:10][O:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([C:15]#[N:16])[O:17][CH:18]1[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,11.173403373180625,-28.95432870903248
1087,1185,[CH3:10][C:11](=[O:12])[c-:13]1[c:14](=[O:15])[o:16][c:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[n+:24]1[CH3:25].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([F:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:13]1([C:11]([CH3:10])=[O:12])[C:14](=[O:15])[O:16][C:17]2([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:24]1[CH3:25],water,298.15,35.18329217203677,3.34173902148566
976,1060,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2.[N:13]#[C:14][C:15]#[N+:16][C-:17]([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:18]#[N:19])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:16]=[C:15]2[C:14]#[N:13],water,298.15,23.762704010113648,-40.85179728830967
1605,1774,[CH3:16][CH:17]=[N+:18]([CH3:19])[C-:20]([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[O:26][CH3:27].[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[CH:17]([CH3:16])[N:18]([CH3:19])[C:20]2([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,22.16865155458477,-34.17933119390668
2781,3091,[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[C-:24]([C:25]([CH3:26])=[O:27])[N+:28]([CH3:29])=[C:30]([C:31]([CH3:32])=[O:33])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]([C:22]([O:21][CH3:20])=[O:23])([C:25]([CH3:26])=[O:27])[N:28]([CH3:29])[C:30]2([C:31]([CH3:32])=[O:33])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1,water,298.15,41.42014024543853,-23.922812058902068
